US04948780
15 g of 2-cyclododecylpropan-l-ol were stirred with 4 g of sodium hydride in 150 ml of tetrahydrofuran for two hours at the boiling temperature excluding air. 6 g of diethyl sulfate were then added dropwise, and the mixture was refluxed for a further two hours. The cooled reaction mixture was poured onto ice and extracted by stirring with 20 ml of 10% strength NaOH and 50 ml of tert.-butyl methyl ether. The aqueous layer was again extracted by shaking with tert.-butyl methyl ether, and the combined organic layers were again extracted by shaking with 10% strength NaOH and distilled. After removal of the solvents, 9.5 g of 2-cyclododecylpropyl ethyl ether were obtained at 92-95° C. and 0.2 mbar.

reactant | 2-cyclododecylpropan-l-ol | 15 g | C1(CCCCCCCCCCC1)C(CO)C | C15H30O
reactant | sodium hydride | 4 g | [H-].[Na+]
reactant | diethyl sulfate | 6 g | S(=O)(=O)(OCC)OCC | C4H10O4S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-cyclododecylpropyl ethyl ether | 9.5 g | C(C)OCC(C)C1CCCCCCCCCCC1 | C17H34O
